US05527827
7-(2-Trimethylsilylethylthio)-4-(furan-3-yl)coumarin
A mixture of 7-bromo-4-(furan-3-yl)coumarin (Coumarin 4) (1.5 g, 5.15 mmol), 2-(trimethylsilyl)ethanethiol (830 mg, 6.18 mmol), and K2CO3 (1.77 g, 12.9 mmol) in 1-methyl-2-pyrrolidinone (12 mL) was heated at 105° C. for 4 h. After cooling, there was added saturated aqueous NH4Cl (10 mL), then H2O (50 mL) and the mixture was extracted twice with EtOAc. The organic extracts were washed 4 times with H2O, dried over MgSO4 and evaporated to a residue which was chromatographed on silica gel eluting with a 1:3 mixture of EtOAc and hexane, to afford the title compound (963 mg) as a tan solid.

reactant | 7-bromo-4-(furan-3-yl)coumarin | 5.15 mmol, 1.5 g | BrC1=CC=C2C(=CC(OC2=C1)=O)C1=COC=C1 | C13H7BrO3
reactant | 2-(trimethylsilyl)ethanethiol | 6.18 mmol, 830 mg | C[Si](CCS)(C)C | C5H14SSi
reactant | K2CO3 | 12.9 mmol, 1.77 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | 1-methyl-2-pyrrolidinone | 12 mL | CN1C(CCC1)=O | C5H9NO
product | 7-(2-Trimethylsilylethylthio)-4-(furan-3-yl)coumarin | 963 mg | C[Si](CCSC1=CC=C2C(=CC(OC2=C1)=O)C1=COC=C1)(C)C | C18H20O3SSi
